US06787543B2
(2R)-2-Benzyloxycarbonylamino-3-[N-(2-methoxybenzyl)-N-(2-oxo-3,3-diphenylpropyl)amino]propionic acid methyl ester (1.55 g) was dissolved in a mixture of tetrahydrofuran (50 ml) and triethylamine (0.744 ml), and the whole was hydrogenated over 10% palladium-charcoal (50% wet, 0.15 g) at room temperature under atmospheric pressure for 4 hours. After removal of the catalyst by filtration, the filtrate was evaporated under reduced pressure. The residue was purified by column chromatography on silica gel using a mixed solvent of hexane and ethyl acetate (2:1) as an eluent. The fractions containing the objective compound were collected and evaporated under reduced pressure to give (2R)-6-benzhydryl-4-(2-methoxybenzyl)piperazine-2-carboxylic acid methyl ester (663.8 mg) as a yellow oil.

reactant | (2R)-2-Benzyloxycarbonylamino-3-[N-(2-methoxybenzyl)-N-(2-oxo-3,3-diphenylpropyl)amino]propionic acid methyl ester | 1.55 g | COC([C@@H](CN(CC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O)CC1=C(C=CC=C1)OC)NC(=O)OCC1=CC=CC=C1)=O | C35H36N2O6
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | triethylamine | 0.744 ml | C(C)N(CC)CC | C6H15N
catalyst | palladium-charcoal | 0.15 g | [Pd] | Pd
product | (2R)-6-benzhydryl-4-(2-methoxybenzyl)piperazine-2-carboxylic acid methyl ester | 663.8 mg | COC(=O)[C@@H]1NC(CN(C1)CC1=C(C=CC=C1)OC)C(C1=CC=CC=C1)C1=CC=CC=C1 | C27H30N2O3
